US06075029
E. Preparation of (R)-7-Benzyl-1-(5-hydroxyhexyl)-3,8-dimethylxanthine
A solution of (R)-1(5-Acetoxyhexyl)-7-benzyl-3,8-dimethylxanthine (500 mg) in methanol (20 ml) was treated with 1 M hydrochloric acid in ether (2.5 ml) and stirred for 12 hours. After evaporation of volatiles under reduced pressure, the residue was dissolved in ethyl acetate (100 ml), washed with saturated sodium bicarbonate solution (30 ml), dried over anhydrous magnesium sulfate and concentrated. Yield=420 mg.

reactant | (R)-1(5-Acetoxyhexyl)-7-benzyl-3,8-dimethylxanthine | 500 mg | C(C)(=O)O[C@@H](CCCCN1C(=O)N(C=2N=C(N(C2C1=O)CC1=CC=CC=C1)C)C)C | C22H28N4O4
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
solvent | ether | 2.5 ml | CCOCC | C4H10O
product | (R)-7-Benzyl-1-(5-hydroxyhexyl)-3,8-dimethylxanthine | C(C1=CC=CC=C1)N1C(=NC=2N(C(N(C(C12)=O)CCCC[C@@H](C)O)=O)C)C | C20H26N4O3
